* source 1_5_4_2
R_R2         N02387 N01620  2.2k  
R_R13         0 N02627  330  
Q_Q3         N01722 N02559 N02627 Q2N2222
R_R3         N02439 N01620  12k  
C_C1         N02387 N02439  10u  
R_R4         N02785 N01620  2.2k  
C_C2         N02785 N02559  10u  
R_R15         N02517 N02488  91  
R_R5         N02559 N01620  14k  
C_C3         N01722 N01774  10u  
I_I1         N02178 0 DC 0Adc AC 0.1uAac 
R_R6         N01722 N01620  2.2k  
C_C4         0 N02627  100u  
C_C8         0 N039741  100u  
R_R7         0 N02249  11k  
C_C5         0 N02517  100u  
V_V2         N01620 0 12Vdc
R_R14         N039741 N02249  100k  
R_R8         0 N02178  1g  
C_C6         0 N02355  100u  
R_R17         0 N04285  100k  
C_C9         N04285 N01774  100u  
R_R9         0 N02355  68k  
C_C7         N02249 N02178  10u  
V_V1         N01774 0 DC 0Vdc AC 0.1mVac 
R_R10         0 N02439  56k  
Q_Q1         N02387 N02249 N02355 Q2N2222
R_R11         0 N02517  14k  
R_R12         0 N02559  2.2k  
Q_Q2         N02785 N02439 N02488 Q2N2222
R_R1         N02249 N01620  1.2k  
